US06696597B2
The metathesis product from above was oxidized to the epoxide as described by Bach et al. in “Epoxidation of Olefins by Hydrogen peroxide-Acetonitrile: cis-Cyclohexene Oxide”, Organic synthesis collective Volume Vii, 1990, p. 126 or with m-chloroperoxybenzoic acid. The glyceride esters were hydrolyzed and the epoxide opened to the diol by warming the epoxide in 2 M KOH and 20 mL of isopropyl alcohol (IPA) to 60° C. for six hours. The solution was concentrated and washed with 50 mL of 1 M HCl. The organic phase was dried with anhydrous sodium sulfate, filtered and used in the next reaction without further purification. Lactonization was accomplished using the following procedure: the crude diol (2.9 g, 9.0 mmol) was dissolved into 50 mL of anhydrous toluene containing 50 mg of toluenesulfonic acid and heated to 100° C. for six hours. The mixture was cooled to room temp and washed with 50 mL of NaHCO3 saturated water. The organic phase was dried with anhydrous sodium sulfate, filtered and used in the next reaction without further purification. The dried solution was acetylated with 1.8 g (0.018 mmol) acetic anhydride and 5 mL of triethylamine. The solution was stirred at room temp overnight. The reaction was worked up by washing with 50 mL of 1 M HCl and 50 mL wash of NaHCO3 saturated water. The organic phase was dried with anhydrous sodium sulfate, filtered, concentrated and to yield (5R,6S)-6-acetoxy-5-hexadecanolide and its stereoisomers, and then purified by column chromatography.

reactant | Hydrogen peroxide Acetonitrile | OO.C(C)#N
reactant | cis-Cyclohexene Oxide | [C@@H]12[C@@H](CCCC1)O2 | C6H10O
reactant | m-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | toluenesulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | acetic anhydride | 0.018 mmol, 1.8 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | KOH | 2 M | [OH-].[K+]
solvent | isopropyl alcohol | 20 mL | C(C)(C)O | C3H8O
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 mL, 50 mg | C1(=CC=CC=C1)C | C7H8
product | (5R,6S)-6-acetoxy-5-hexadecanolide | C(C)(=O)O[C@H]([C@H]1CCCC(=O)O1)CCCCCCCCCC | C18H32O4
